US08975254B2
(S)—N-(1-(3-(3-chloro-4-cyano-2-methylphenyl)-1H-pyrazol-1-yl)propan-2-yl)-2-(dimethylamino)thiazole-4-carboxamide
(S)-2-bromo-N-(1-(3-(3-chloro-4-cyano-2-methylphenyl)-1H-pyrazol-1-yl)-propan-2-yl)thiazole-4-carboxamide (0.247 g, 0.531 mmol) was added into a microwave test tube with dry pyridine. The mixture was bubbled with nitrogen and dimethylamine 2 M in THF (1.329 ml, 2.66 mmol) was added. The reaction mixture was heated with microwaves at 120° C. for 10 h. The crude product was evaporated, diluted with DCM, washed with 1M Na2CO3 and water. The product was purified with Flash-chromatography. Yield 63.2%. 1H-NMR (400 MHz; CDCl3): δ 1.25 (d, 3H), 2.53 (s, 3H), 3.00 (s, 6H), 4.32 (dd, 1H), 4.41 (dd, 1H), 4.55 (m, 1H), 6.41 (d, 1H), 7.30 (d, 1H), 7.52 (m, 3H), 7.74 (d, 1H).

reactant | (S)-2-bromo-N-(1-(3-(3-chloro-4-cyano-2-methylphenyl)-1H-pyrazol-1-yl)-propan-2-yl)thiazole-4-carboxamide | 0.531 mmol, 0.247 g | BrC=1SC=C(N1)C(=O)N[C@H](CN1N=C(C=C1)C1=C(C(=C(C=C1)C#N)Cl)C)C | C18H15BrClN5OS
reactant | dimethylamine | 2 M | CNC | C2H7N
reactant | THF | 2.66 mmol, 1.329 ml | C1CCOC1 | C4H8O
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | (S)—N-(1-(3-(3-chloro-4-cyano-2-methylphenyl)-1H-pyrazol-1-yl)propan-2-yl)-2-(dimethylamino)thiazole-4-carboxamide | Yield 63.2% | ClC=1C(=C(C=CC1C#N)C1=NN(C=C1)C[C@H](C)NC(=O)C=1N=C(SC1)N(C)C)C | C20H21ClN6OS
